US04460580
16.6 g of crude N-[3-(4-carbamoyl-3-hydroxyphenoxy)propyl]-N-(2-hydroxy-2-phenyl-ethyl)-benzylamine are hydrogenated analogously to Example 4 and the reaction mixture is worked up. α-[N-[3-(4-Carbamoyl-3-hydroxy-phenoxy)-propyl]-aminomethyl]-benzyl alcohol with a melting point of 208°-210° is obtained by recrystallisation from isopropanol.

reactant | N-[3-(4-carbamoyl-3-hydroxyphenoxy)propyl]-N-(2-hydroxy-2-phenyl-ethyl)-benzylamine | 16.6 g | C(N)(=O)C1=C(C=C(OCCCN(CC(C2=CC=CC=C2)O)CC2=CC=CC=C2)C=C1)O | C25H28N2O4
solvent | isopropanol | C(C)(C)O | C3H8O
product | α-[N-[3-(4-Carbamoyl-3-hydroxy-phenoxy)-propyl]-aminomethyl]-benzyl alcohol | C(N)(=O)C1=C(C=C(OCCCNCC(C2=CC=CC=C2)O)C=C1)O | C18H22N2O4
